US07632829B2
(rac)-3-{4-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-2-piperidin-1-ylmethyl-propionic acid ethyl ester
A suspension of 0.80 g (1.88 mmol) of 2-{4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-ylmethyl}-acrylic acid ethyl ester, 0.56 ml (5.64 mmol) of piperidine and 1.83 g (5.61 mmol) of cesium carbonate in 32 ml of acetonitrile was stirred over night at RT. Additional 0.37 ml (3.76 mmol) of piperidine were added and after 1 h, cesium carbonate was filtrated and the solvent evaporated. Purification by flash silica gel column (CH2Cl2/MeOH 98:2 to 96:4) gave 0.43 g (44%) of the title compound as colorless foam. MS: 510.4 (MH+, 2Cl).

reactant | 2-{4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-ylmethyl}-acrylic acid ethyl ester | 1.88 mmol, 0.80 g | C(C)OC(C(=C)CN1CCN(CCC1=O)C(\C=C\C1=CC(=C(C=C1)Cl)Cl)=O)=O | C20H22Cl2N2O4
reactant | piperidine | 5.64 mmol, 0.56 ml | N1CCCCC1 | C5H11N
reactant | cesium carbonate | 5.61 mmol, 1.83 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | piperidine | 3.76 mmol, 0.37 ml | N1CCCCC1 | C5H11N
solvent | acetonitrile | 32 ml | C(C)#N | C2H3N
product | (rac)-3-{4-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-2-piperidin-1-ylmethyl-propionic acid ethyl ester | 0.43 g, 44% | C(C)OC(C(CN1CCN(CCC1=O)C(\C=C\C1=CC(=C(C=C1)Cl)Cl)=O)CN1CCCCC1)=O | C25H33Cl2N3O4
